US05198451
A solution of n-butyllithium in hexanes (15.0 ml, 2.5 M) was added dropwise under a nitrogen atmosphere to ethylene glycol (30 ml) at 10° C. When addition was complete the mixture was stirred for 0.5 h at room temperature. 3-Bromo- 1,1-bis(4-chlorophenyl)-1-propene (13.0 g, 38 mmol, prepared similarly to the method described in Example 23) was added and the reaction mixture was stirred at room temperature for 72 h. The mixture was poured into water (100 ml) and extracted with ethyl acetate (2×75 ml). The combined organic extracts was dried over sodium sulphate and the solvent evaporated in vacuo. Flash chromatography of the residue on silica gel (200 g) using a mixture of n-heptane and ethyl acetate (3:2) as eluent provided 8.1 g (66%) of 2-(3,3-bis(4-chlorophenyl)-2-propen-1-yloxy)ethanol, M.P. 93°-95° C.

reactant | n-butyllithium | C(CCC)[Li]
reactant | ethylene glycol | 30 ml | C(CO)O | C2H6O2
reactant | 3-Bromo- 1,1-bis(4-chlorophenyl)-1-propene | BrCC=C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C15H11BrCl2
solvent | water | 100 ml | O | H2O
product | 2-(3,3-bis(4-chlorophenyl)-2-propen-1-yloxy)ethanol | 8.1 g, 66% | ClC1=CC=C(C=C1)C(=CCOCCO)C1=CC=C(C=C1)Cl | C17H16Cl2O2
